US05500435
A mixture of 5.6 parts of 1-methyl-α-phenyl-1H-benzimidazole-5-methanol, 4.05 parts of 1,1'-carbonylbis[1H-imidazole] and 54 parts tetrahydrofuran was stirred for 4 hours at reflux temperature. The tetrahydrofuran layer was evaporated and water was added to the residue. The decanted oil was dissolved in dichloromethane. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (93:7 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was washed with 2,2'-oxybispropane and dried, yielding 2.9 parts (42.9%) of 5-[1H-imidazol-1-yl)phenylmethyl]-1-methyl-1H-benzimidazole; mp. 138.7° C. (comp. 21).

reactant | 1-methyl-α-phenyl-1H-benzimidazole-5-methanol | CN1C=NC2=C1C=CC(=C2)C(O)C2=CC=CC=C2 | C15H14N2O
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methyl-1H-benzimidazole | CN1C=NC2=C1C=CC=C2 | C8H8N2
